US05814653
To a solution of 22.3 gm (85.01 mMol) N-((R)-(+)-a-methyl-(4-nitrophenyl)ethyl)-4-aminocyclohexanone in 375 mL ethanol were added 19.0 gm (85.0 mMol) 4-bromophenylhydrazine hydrochloride and 6.73 gm (85.1 mMol) pyridine. The reaction mixture was heated to 80° C. for 48 hours. The reaction mixture was cooled to room temperature and concentrated under reduced pressure. The residue was dissolved in dichloromethane and the organic solution was washed sequentially with aqueous potassium carbonate and saturated aqueous sodium chloride. The remaining organics were dried over sodium sulfate and concentrated under reduced pressure to give 31.66 gm (86%) N-((R)-(+)-a-methyl-(4-nitrophenyl)ethyl)-4-aminocyclohexanone 4-bromophenylhydrazone as a brown solid.

reactant | N-((R)-(+)-a-methyl-(4-nitrophenyl)ethyl)-4-aminocyclohexanone | 85.01 mMol, 22.3 gm | C[C@H](CC1=CC=C(C=C1)[N+](=O)[O-])NC1CCC(CC1)=O | C15H20N2O3
reactant | 4-bromophenylhydrazine hydrochloride | 85.0 mMol, 19.0 gm | Cl.BrC1=CC=C(C=C1)NN
reactant | pyridine | 85.1 mMol, 6.73 gm | N1=CC=CC=C1 | C5H5N
solvent | ethanol | 375 mL | C(C)O | C2H6O
product | N-((R)-(+)-a-methyl-(4-nitrophenyl)ethyl)-4-aminocyclohexanone 4-bromophenylhydrazone | 31.66 gm, 86% | BrC1=CC=C(C=C1)NN=C1CCC(CC1)N[C@@H](CC1=CC=C(C=C1)[N+](=O)[O-])C | C21H25BrN4O2
